data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_511044_1,[C:1]([C:2](/[C:5]([C:4]([N:6]([H:12])[H:13])([O:7][H:10])[O:9][H:18])=[N:8]/[H:14])([H:15])[H:16])(=[C:3]([H:17])[H:19])[H:11]>>[C:1]([C:2](/[C:5]([C:4]([N:6]([H:12])[H:13])=[O:9])=[N:8]/[H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([O:7][H:10])[H:11],54.85793250000072
MR_643338_1,[C@@:1]1([C:2]([C:5]([C:3]([H:13])([H:14])[H:15])=[O:8])([H:11])[H:12])([O:7][H:9])[N:4]([H:10])[O:6]1>>[C:1](=[C:2]([H:11])[H:12])([N:4]([O:6][C:5]([C:3]([H:13])([H:14])[H:15])=[O:8])[H:10])[O:7][H:9],41.06108999998554
MR_457055_2,[C:1]1([N:2]([H:7])[H:8])([O:5][H:6])[O:3][O:4]1>>[C:1](=[N:2]/[H:7])(\[O:3][O:4][H:8])[O:5][H:6],28.06744749997563
MR_590053_2,[C:1]([C:2]([H:17])([H:18])[H:19])([C:4]([O:9][H:11])=[O:10])([N:6]([H:12])[H:13])/[C:8](=[C:5](/[C:3]([H:20])([H:21])[H:22])[N:7]([H:14])[H:15])[H:16]>>[C:1](\[C:2]([H:17])([H:18])[H:19])([N:6]([H:12])[H:13])=[C:8](/[C:5]([C:3]([H:20])([H:21])[H:22])([C:4]([O:9][H:11])=[O:10])[N:7]([H:14])[H:15])[H:16],61.90726750000181
MR_100178_1,[C:1]([C:4]1=[N:8][C:7]2([H:13])[N:2]([N:5]([H:9])[H:10])[C:3]12[N:6]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([c:4]1[c:3]([N:6]([H:11])[H:12])[n:2]([N:5]([H:9])[H:10])[c:7]([H:13])[n:8]1)([H:14])([H:15])[H:16],25.100627500011257
MR_299172_1,[C:1]([C:2]([C:4]([O:8][H:10])=[O:9])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:6]([H:12])[H:13])[H:11]>>[C:1](\[C:2]([C:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([O:8][H:10])[O:9][H:12])([H:14])[H:15])(=[N:6]/[H:13])[H:11],70.60190749998654
MR_186736_1,[C@@:1]([C:2](/[N:8]=[C:6](\[O:7][H:9])[H:12])([H:13])[H:14])([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])[H:11]>>[C@@:1]1([C:4]([H:18])([H:19])[H:20])([H:11])[C:2]([H:13])([H:14])[N:8]1[C@@:6]([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])([O:7][H:9])[H:12],69.02813750000064
MR_165929_0,[C:1]1([C:5]([H:17])([H:18])[H:19])=[C:7]([H:15])[C:8]2([H:16])[C:2]([H:10])([C:3]1([H:11])[H:12])[C:4]([H:13])([H:14])[C:6]2=[O:9]>>[C:1]12([C:5]([H:17])([H:18])[H:19])[C:3]([H:11])([H:12])[C:2]([H:10])([C:4]([H:13])([H:14])[C:6]1=[O:9])[C:8]([H:16])=[C:7]2[H:15],50.0117500000016
MR_638471_1,[C:1]([C:2]12/[C:3](=[N:7]/[H:8])[C:5]1([H:10])[C:4]([H:9])=[N:6]2)([H:11])([H:12])[H:13]>>[C:1]([C:2]1=[N:6][C:4]([H:9])=[C:5]([H:10])/[C:3]1=[N:7]\[H:8])([H:11])([H:12])[H:13],6.201582500001308
MR_662952_1,[C@@:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])([N:6]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](=[C:4](\[C:2]([H:15])([H:16])[H:17])[C@:5]([C:3]([H:18])([H:19])[H:20])([N:7]([H:13])[H:14])[O:8][H:9])(\[N:6]([H:11])[H:12])[H:10],38.504655000019454
MR_8121_1,[C:1](/[C:3](=[N:5]/[N:2]([H:7])[H:8])[H:10])(/[C:4](=[N:6]/[H:9])[H:13])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C@@:3]([N:5]([N:2]([H:7])[H:8])[H:13])([H:10])[C:4]1[N:6][H:9],60.079987499978245
MR_166438_0,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:7]=[C:5]([H:15])[H:16])[O:6][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[N:7]1[H:8])=[O:6])([H:9])([H:10])[H:11],44.10697499999998
MR_167378_0,[N:1]([C:2]([O:4][H:7])=[O:6])(/[C:3](=[N:5]\[H:9])[H:10])[H:8]>>[N:1](=[C:2](\[O:4][H:7])[O:6]/[C:3](=[N:5]\[H:9])[H:10])\[H:8],55.36244249997537
MR_420174_0,[C:1](/[C:3](=[C:2](\[N:4]([H:9])[H:10])[O:7][C:6](=[O:8])[H:13])[N:5]([H:11])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])([N:5]([H:11])[H:12])[C:6](=[O:8])[H:13])([H:14])([H:15])[H:16],38.44880750001778
MR_583758_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:4]([O:6][H:9])[H:11])/[C:5](=[N:8]/[O:7][H:10])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:5]([N:8]([N:4]([O:6][H:9])[H:11])[O:7][H:10])[H:12],60.68176000002836
MR_614635_1,[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:6](=[C:8]([H:19])[H:20])[H:13]>>[C:1]1([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:3]([C:2]([H:14])([H:15])[H:16])([C:6](=[C:8]([H:19])[H:20])[H:13])[C:7]1([H:17])[H:18],51.86099249996971
MR_349631_0,[C:1]([C:3]([C:2]([H:9])([H:13])[H:14])=[N:6][O:5][C:4](=[O:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([C:2]([H:9])([H:13])[H:14])[O:5][N:6]1[C:4](=[O:7])[H:8])([H:10])([H:11])[H:12],53.20196000000834
MR_499214_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:6][H:9])[N:7][N:8][N:5]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([C:2]([H:15])([H:16])[H:17])[C:3]([O:6][H:9])=[N:7][N:8]1[N:5]([H:10])[H:11])([H:12])([H:13])[H:14],33.63651000000445
MR_132520_1,[C:1]([C:4]([C:3](/[C:2](=[N:7]/[H:18])[H:12])([H:19])[H:20])([O:8][H:10])[O:9][H:17])([N:5]([H:13])[H:14])([N:6]([H:15])[H:16])[H:11]>>[C:1]([C:2]([C:3]([C:4]([O:8][H:10])=[O:9])([H:19])[H:20])([N:7]([H:17])[H:18])[H:12])([N:5]([H:13])[H:14])([N:6]([H:15])[H:16])[H:11],59.054024999964696
